2131-09-07 08:42:00 Physician Attending Progress Note
Chief Complaint: lactic acidosis and oliguria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2131-9-6**] 11:00 PM
   Remained on dobutamine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Infusions:
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-7**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 72 (67 - 80) bpm
   BP: 129/41(60) {75/32(50) - 138/72(89)} mmHg
   RR: 31 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 10 (10 - 18)mmHg
   CO/CI (Fick): (7.9 L/min) / (3.6 L/min/m2)
   SvO2: 70%
   Total In:
                                                                  1,764 mL
                                                                    468 mL
   PO:
   TF:
   IVF:
                                                                    164 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                      5 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: elderly male, lying in bed, confused
   HEENT: o/p clear
   Neck: right IJ
   CV: RR 3/6 sys murmur LLSB
   Chest: fair air movement ant.
   Abd: soft NT
   Ext: 3+ pitting edema
   Neuro: delirious, inconsistently following commands, moving all ext
   Labs / Radiology
   8.6 g/dL
   161 K/uL
   59 mg/dL
   4.7 mg/dL
   23 mEq/L
   5.6 mEq/L
   95 mg/dL
   94 mEq/L
   135 mEq/L
   27.7 %
   17.8 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
   WBC
   17.9
   16.8
   17.8
   Hct
   28.1
   26.2
   27.7
   Plt
   165
   156
   161
   Cr
   4.5
   4.7
   Glucose
   53
   59
   Other labs: PT / PTT / INR:29.5/36.3/3.0, Differential-Neuts:90.6 %,
   Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic Acid:5.5 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.4 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   73 yr old man with prosthetic valvular endocarditis presents with
   lactic acidosis and altered mental status.
   1.       Hemodynamics: DDx primary cardiogenic dysfunction with cool
   extremities and known valvular insufficiency.
   2.       VRE Endocarditis: keep on Daptomycin, follow up blood cx,
   formal Echo in AM. Cardiology to follow with us. Calrify with Dr [**Last Name (STitle) **]
   3.       Arf: DDX pre renal
 overdiuresed vs poor forward flow,  check
   urine lytes, renally dose all meds,
   4.       Discitis: Daptomycin
   5.       Mental Status changes: DDX delirium in setting of poor
   perfusion, infection, linezolid toxicity, head CT negative for acute
   bleed
   Remaining Issues as per Housestaff Notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2131-9-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2131-09-07 08:42:00 Physician Attending Progress Note
Chief Complaint: lactic acidosis and oliguria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2131-9-6**] 11:00 PM
   Remained on dobutamine
   Blood Cx with GPC presumed VRE
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Infusions:
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-7**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 72 (67 - 80) bpm
   BP: 129/41(60) {75/32(50) - 138/72(89)} mmHg
   RR: 31 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 10 (10 - 18)mmHg
   CO/CI (Fick): (7.9 L/min) / (3.6 L/min/m2)
   SvO2: 70%
   Total In:
                                                                  1,764 mL
                                                                    468 mL
   PO:
   TF:
   IVF:
                                                                    164 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                      5 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: elderly male, lying in bed, confused
   HEENT: o/p clear
   Neck: right IJ
   CV: RR 3/6 sys murmur LLSB
   Chest: fair air movement ant.
   Abd: soft NT
   Ext: 3+ pitting edema
   Neuro: delirious, inconsistently following commands, moving all ext
   Labs / Radiology
   8.6 g/dL
   161 K/uL
   59 mg/dL
   4.7 mg/dL
   23 mEq/L
   5.6 mEq/L
   95 mg/dL
   94 mEq/L
   135 mEq/L
   27.7 %
   17.8 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
   WBC
   17.9
   16.8
   17.8
   Hct
   28.1
   26.2
   27.7
   Plt
   165
   156
   161
   Cr
   4.5
   4.7
   Glucose
   53
   59
   Other labs: PT / PTT / INR:29.5/36.3/3.0, Differential-Neuts:90.6 %,
   Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic Acid:5.5 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.4 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   73 yr old man with prosthetic valvular endocarditis presents with
   lactic acidosis and altered mental status.
   1.       Hemodynamics: DDx primary cardiogenic dysfunction with cool
   extremities and known valvular insufficiency with potential mixed
   septic component. Blood cx are now with GPC
 likely his untreatable
   perivalvular abscess . Formal echo today to eval valvular function. I
   would stop Dobutamine as he has stable MAPS and lacta not significantly
   changed.
   2.       VRE Endocarditis: keep on Daptomycin, follow up blood cx,
   formal Echo pending. Cardiology to follow with us. Calrify with Dr
   [**Last Name (STitle) **]
   3.       Arf: DDX pre renal
 overdiuresed vs poor forward flow,  check
   urine lytes, renally dose all meds,
   4.       Discitis: Daptomycin
   5.       Mental Status changes: DDX delirium in setting of poor
   perfusion, infection, linezolid toxicity, head CT negative for acute
   bleed
   Remaining Issues as per Housestaff Notes
   ICU Care
   Nutrition:
   Glycemic Control:  SSRI
   Lines:
   Presep Catheter - [**2131-9-6**] 11:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:  ppi
   Communication:  wife [**Last Name (LF) 2588**], [**First Name3 (LF) 133**] call Palliative Care consult.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40

2131-09-07 08:42:00 Physician Attending Progress Note
Chief Complaint: lactic acidosis and oliguria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2131-9-6**] 11:00 PM
   Remained on dobutamine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Infusions:
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-7**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 72 (67 - 80) bpm
   BP: 129/41(60) {75/32(50) - 138/72(89)} mmHg
   RR: 31 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 10 (10 - 18)mmHg
   CO/CI (Fick): (7.9 L/min) / (3.6 L/min/m2)
   SvO2: 70%
   Total In:
                                                                  1,764 mL
                                                                    468 mL
   PO:
   TF:
   IVF:
                                                                    164 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                      5 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Labs / Radiology
   8.6 g/dL
   161 K/uL
   59 mg/dL
   4.7 mg/dL
   23 mEq/L
   5.6 mEq/L
   95 mg/dL
   94 mEq/L
   135 mEq/L
   27.7 %
   17.8 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
   WBC
   17.9
   16.8
   17.8
   Hct
   28.1
   26.2
   27.7
   Plt
   165
   156
   161
   Cr
   4.5
   4.7
   Glucose
   53
   59
   Other labs: PT / PTT / INR:29.5/36.3/3.0, Differential-Neuts:90.6 %,
   Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic Acid:5.5 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.4 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   73 yr old man with prosthetic valvular endocarditis presents with
   lactic acidosis and altered mental status.
   1.       Hemodynamics: DDx primary cardiogenic dysfunction with cool
   extremities and known valvular insufficiency. However ScVo2 68% and CVP
   only 12
 so could be likely but could be an additional mixed component
   with sepsis with leukocytosis and hypothermia. He was started on
   Dobutamine in the ED
 initially lactate went form 9 to 7, shut on
   Dobuta back up to 9, put back on and 8 to 5.5 so it appears he is
   somewhat responsive it. At present we will keep on overnight, goal MAP
   65, trend SCVo2 and lactates, watch for improved UOP.
   2.       Lactic Acidosis: alternative etiology beyond poor perfusion
   would be Linezolid toxicity
 will hold
   3.       VRE Endocarditis: keep on Daptomycin, follow up blood cx,
   formal Echo in AM. Cardiology to follow with us. Calrify with Dr [**Last Name (STitle) **]
   4.       Arf: DDX pre renal
 overdiuresed vs poor forward flow,  check
   urine lytes, renally dose all meds,
   5.       Discitis: Daptomycin
   6.       Mental Status changes: DDX delirium in setting of poor
   perfusion, infection, linezolid toxicity, head CT negative for acute
   bleed
   Remaining Issues as per Housestaff Notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2131-9-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2131-09-07 08:42:00 Physician Attending Progress Note
Chief Complaint: lactic acidosis and oliguria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2131-9-6**] 11:00 PM
   Remained on dobutamine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Infusions:
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-7**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 72 (67 - 80) bpm
   BP: 129/41(60) {75/32(50) - 138/72(89)} mmHg
   RR: 31 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 10 (10 - 18)mmHg
   CO/CI (Fick): (7.9 L/min) / (3.6 L/min/m2)
   SvO2: 70%
   Total In:
                                                                  1,764 mL
                                                                    468 mL
   PO:
   TF:
   IVF:
                                                                    164 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                      5 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: elderly male, lying in bed, confused
   HEENT: o/p clear
   Neck: right IJ
   CV: RR 3/6 sys murmur LLSB
   Chest: fair air movement ant.
   Abd: soft NT
   Ext: 3+ pitting edema
   Neuro: delirious, inconsistently following commands, moving all ext
   Labs / Radiology
   8.6 g/dL
   161 K/uL
   59 mg/dL
   4.7 mg/dL
   23 mEq/L
   5.6 mEq/L
   95 mg/dL
   94 mEq/L
   135 mEq/L
   27.7 %
   17.8 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
   WBC
   17.9
   16.8
   17.8
   Hct
   28.1
   26.2
   27.7
   Plt
   165
   156
   161
   Cr
   4.5
   4.7
   Glucose
   53
   59
   Other labs: PT / PTT / INR:29.5/36.3/3.0, Differential-Neuts:90.6 %,
   Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic Acid:5.5 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.4 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   73 yr old man with prosthetic valvular endocarditis presents with
   lactic acidosis and altered mental status.
   1.       Hemodynamics: DDx primary cardiogenic dysfunction with cool
   extremities and known valvular insufficiency with potential mixed
   septic component. Blood cx are now with GPC
 likely his untreatable
   perivalvular abscess . Formal echo today to eval valvular function.
   2.       VRE Endocarditis: keep on Daptomycin, follow up blood cx,
   formal Echo in AM. Cardiology to follow with us. Calrify with Dr [**Last Name (STitle) **]
   3.       Arf: DDX pre renal
 overdiuresed vs poor forward flow,  check
   urine lytes, renally dose all meds,
   4.       Discitis: Daptomycin
   5.       Mental Status changes: DDX delirium in setting of poor
   perfusion, infection, linezolid toxicity, head CT negative for acute
   bleed
   Remaining Issues as per Housestaff Notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2131-9-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2131-09-08 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-9-7**] 05:04 PM
   evaluated by MD with no significant change
   Lactate trending downwards: 6.0 -> 5.3 -> 4.1
   Given findings on ECHO (RV overload), CXR suggesting edema, and high
   home dose of lasix, gave 40mg lasix IV at 11pm. No increase in urine
   output, but HR decreased, BP increased, and sVO2 increased. Given 80mg
   Lasix at 4am with no significant change in UOP.
   ID Recs: Continue broad coverage w/ Dapto and Zosyn (changed Dapto to
   900mg IV q48h).
   Seen by paliative care, note in chart.
   UOP poor all day [**4-12**]
   No Cards recs seen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-7**] 10:03 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2131-9-8**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-8**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 75 (62 - 104) bpm
   BP: 118/44(62) {90/28(29) - 148/90(134)} mmHg
   RR: 37 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 13 (5 - 19)mmHg
   CO/CI (Fick): (8.4 L/min) / (3.9 L/min/m2)
   SvO2: 72%
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                    983 mL
                                                                    122 mL
   PO:
   TF:
   IVF:
                                                                    983 mL
                                                                    122 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                    133 mL
                                                                     20 mL
   Urine:
                                                                    133 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    850 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: chronically Ill-appearing
   Eyes / Conjunctiva: PERRL, 2mm equal
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL. RIJ with some ecchymoses, nontender
   Cardiovascular: Systolic and diastolic murmurs with (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear Anteriorly: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: [**11-29**]+ poitting edema BL
   Musculoskeletal: Muscle wasting
   Skin:  Cool, Inferior sternal wound with good granulation tissue, no
   purulence
   Neurologic: No(t) Attentive, Follows simple commands, MAE, oriented to
   hospital only.
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   59 mg/dL
   5.4 mg/dL
   23 mEq/L
   5.6 mEq/L
   112 mg/dL
   97 mEq/L
   139 mEq/L
   26.3 %
   16.9 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
                            [**2131-9-7**]  02:41 PM
                            [**2131-9-8**]  03:25 AM
   WBC
   17.9
   16.8
   17.8
   16.9
   Hct
   28.1
   26.2
   27.7
   26.3
   Plt
   165
   156
   161
   150
   Cr
   4.5
   4.7
   4.7
   4.9
   5.4
   TropT
   0.15
   Glucose
   53
   59
   63
   75
   59
   Other labs: PT / PTT / INR:32.7/34.2/3.4, CK / CKMB /
   Troponin-T:151/6/0.15, ALT / AST:665/834, Alk Phos / T Bili:191/3.5,
   Differential-Neuts:90.6 %, Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:5.0 mmol/L, Albumin:3.0 g/dL, LDH:1116 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   A/P: The Pt is a 73y/o M with extensive VRE endocarditis presenting
   with altered mental status and multiorgan system failure.
   .
   # Altered Mental Status: most likely multifactorial including evidence
   of poor perfusion, underlying chronic infection, no meningeal signs on
   exam. Also ? [**12-30**] linezolid toxicity
   - CT Head negative
   - Hold on LP given no meningeal signs, low likelihood and elevated INR
   - ID workup including pan-cultures, growing GPC in [**Last Name (LF) 573**], [**First Name3 (LF) **] need to
   f/u speciation
   - Treat poor perfusion with supportive management, maintain MAP>60,
   SVO2>70,
   .
   # VRE endocarditis/Multiorgan System Failure: Clinical presentation
   concerning for heart failure with multiorgan system dysfunction.
   However also mixed picture given nl SvO2 and marginal CVP with IVF
   resuscitation. Likely mixed cardiogenic and septic. Pt has no evidence
   of fever/tachycardia/hypotension/hypoxia however he does have evidence
   of poor perfusion with cool extremities, acute renal failure, mental
   status changes, and transaminitis with  positive [**First Name3 (LF) 573**] cx. Underlying
   etiology most likely significant endocarditis.  Pt seen by CT [**Doctor First Name 213**] and
   not surgical candidate.
   - PICC Line DC'd in ED - cultures pending
   - [**Doctor First Name **] Cx pending, 1 posiotive for GPC, likely will be VRE given
   extensive h/o VRE endocarditis
   - Urine Cx pending
   - Monitor SVo2 goal >70
   - Trend lactate, overall trending down
   - Continue broad spectrum antibiotics with daptomycin for VRE
   endocarditis
   - If MOS failure found to be due to hypoperfusion in the setting of
   heart failure stemming for overwhelming endocarditis, treatment options
   will be quite limited as pt is not surgical candidate and there is
   remote possibility of cure with antibiotics alone, this was discussed
   with family.
   - Pt seen by CT [**Doctor First Name 213**] and would bnot be surgical candidate. Little
   options left other than continuing medical management fro endocarditis
   .
   # Leukocytosis - WBC 19 on admission, alightly down today to 16.
   Concern for reactive due to shock vs infection
   - ID workup as above
   - HD monitoring as above
   .
   # Acute on Chronic Renal Failure - pt with Cr of 5.4  up from 3.5 at
   time of discharge, continuing to trend up. Minimal UOP in ED. Most
   likely ATN but unclear etiology of worsening. Concern for heart failure
   leading to poor perfusion vs UTI vs septic emboli for endocarditis .
   Retention less likely given minimal UOP after foley placement. Given
   poor UOP, volume overload may be indication for dialysis but dialysis
   would essentially be bridge to nowhere given poor prognosis of infxn
   and inability to adequately manage endocarditis with medical
   management. Pt now with mental status changes as well.
   - UA and culture. UA now growing GNR so on Zosyn
   - Will discuss goals of care with family. Would like to avoid invasive
   measures such as HD or CVVH
   - Will resume home diuretic regimen to attempt to improve UOP, decrease
   volume overload
   - Maintain MAP to optimize perfusion
   - Aim to keep 1 liter negative (actually even given 1L insensible
   losses)
   .
   # Elevated LFTS - concern for congestive hepatopathy vs primary biliary
   process however no tenderness on abd exam and RUQ US negative in ED
   - Trend LFTs, fractionate bili
   - f/u final read RUQ US
   - treat suspected hypoperfusion as above
   .
   # UTI: GNR in urine as above. Will treat empirically with zosyn for
   now, F/U cx data
   .
   # AG Metabolic Acidosis
 AG and lactate elevatedlikley [**12-30**] infection,
   hypoperfusion. [**Month (only) 51**] also be component of linezolid so linezolid
   discontinued, on Dapto. . Also may be related to ARF and uremia
   - trend lactate
   - monitor AG
   - treat as above
   .
   # Cardiomyopathy - Pt severe AR and severe MR now with evidence of poor
   perfusion. Maintaining MAP, adequate SVO2 off dobutamine.
   - Continue simvastatin, aspirin, amiodarone
   - Hold metoprolol for now
   .
   # Elevated CRP - 102 up from 51 on [**8-30**]. Pt with hx of vertebral
   discitis, followed by ID and on abx as above. Elevation now in setting
   of multiorgan system failure
   - continue ID w/u as above
   - consider repeat abdominal/spine imaging but unlikely to change
   managem,ent since on Abx indefinitely at this pt
   .
   # OSA - family reports pt previously intolerant of CPAP facemask,
   - trial nasal CPAP
   .
   # FEN - NPO with sips for now given poor mental status
   - replete lytes PRN, monitor K
   .
   # Access - RIJ
   .
   # Prophy
 had supratherapuetic INR on coumadin. Will give PO vit K x 1
   to reverse coagulopathy and follow, bisacodyl
   .
   # Code - DNR/DNI, confirmed with wife, will have family meeting today
   to discuss goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2131-9-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 2391**]
s note above and
   agree with the findings and the plan of care.  I  would add/emphasize
   the following:  The patient remains with an essentially incurable
   bivalvular endocarditis, as surgery would be needed to cure him, and
   surgery is not able to be done due to extensive surgery already done
   and the extensive surgery that would be needed.  In this setting the
   patient has developed progressive renal failure, despite hemodynamic
   stability and oliguria not responsive to high dose diuretics.  The
   etiology is likely multifactorial, possibly due to infection, septic
   emboli, cardiac dysfunction.
   Given the poor prognosis, we had an extensive and frank conversation
   with Mr [**Known lastname **]
s family.  His wife and daughters have expressed
   their sense that he would not want further invasive intervention, given
   the dire prognosis.  They are now willing to convert the emphasis of
   care to comfort, and are in agreement with no dialysis, [**Known lastname 573**] draws, or
   anything else that does not work toward his comfort.  For now we will
   keep him in the MICU, but he may soon be able to move to a private room
   on the med floors.  The MICU house staff will appropriately adjust meds
   and testing orders.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   80 minutes spent in the care of this critically ill patient, >50% of
   which was spent in counseling
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2131-9-8**] 16:25 ------

2131-09-08 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-9-7**] 05:04 PM
   evaluated by MD with no significant change
   Lactate trending downwards: 6.0 -> 5.3 -> 4.1
   Given findings on ECHO (RV overload), CXR suggesting edema, and high
   home dose of lasix, gave 40mg lasix IV at 11pm. No increase in urine
   output, but HR decreased, BP increased, and sVO2 increased. Given 80mg
   Lasix at 4am with no significant change in UOP.
   ID Recs: Continue broad coverage w/ Dapto and Zosyn (changed Dapto to
   900mg IV q48h).
   Seen by paliative care, note in chart.
   UOP poor all day [**4-12**]
   No Cards recs seen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-7**] 10:03 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2131-9-8**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-8**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 75 (62 - 104) bpm
   BP: 118/44(62) {90/28(29) - 148/90(134)} mmHg
   RR: 37 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 13 (5 - 19)mmHg
   CO/CI (Fick): (8.4 L/min) / (3.9 L/min/m2)
   SvO2: 72%
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                    983 mL
                                                                    122 mL
   PO:
   TF:
   IVF:
                                                                    983 mL
                                                                    122 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                    133 mL
                                                                     20 mL
   Urine:
                                                                    133 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    850 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: chronically Ill-appearing
   Eyes / Conjunctiva: PERRL, 2mm equal
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL. RIJ with some ecchymoses, nontender
   Cardiovascular: Systolic and diastolic murmurs with (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear Anteriorly: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: [**11-29**]+ poitting edema BL
   Musculoskeletal: Muscle wasting
   Skin:  Cool, Inferior sternal wound with good granulation tissue, no
   purulence
   Neurologic: No(t) Attentive, Follows simple commands, MAE, oriented to
   hospital only.
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   59 mg/dL
   5.4 mg/dL
   23 mEq/L
   5.6 mEq/L
   112 mg/dL
   97 mEq/L
   139 mEq/L
   26.3 %
   16.9 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
                            [**2131-9-7**]  02:41 PM
                            [**2131-9-8**]  03:25 AM
   WBC
   17.9
   16.8
   17.8
   16.9
   Hct
   28.1
   26.2
   27.7
   26.3
   Plt
   165
   156
   161
   150
   Cr
   4.5
   4.7
   4.7
   4.9
   5.4
   TropT
   0.15
   Glucose
   53
   59
   63
   75
   59
   Other labs: PT / PTT / INR:32.7/34.2/3.4, CK / CKMB /
   Troponin-T:151/6/0.15, ALT / AST:665/834, Alk Phos / T Bili:191/3.5,
   Differential-Neuts:90.6 %, Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:5.0 mmol/L, Albumin:3.0 g/dL, LDH:1116 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   A/P: The Pt is a 73y/o M with extensive VRE endocarditis presenting
   with altered mental status and multiorgan system failure.
   .
   # Altered Mental Status: most likely multifactorial including evidence
   of poor perfusion, underlying chronic infection, no meningeal signs on
   exam. Also ? [**12-30**] linezolid toxicity
   - CT Head negative
   - Hold on LP given no meningeal signs, low likelihood and elevated INR
   - ID workup including pan-cultures, growing GPC in [**Last Name (LF) 573**], [**First Name3 (LF) **] need to
   f/u speciation
   - Treat poor perfusion with supportive management, maintain MAP>60,
   SVO2>70,
   .
   # VRE endocarditis/Multiorgan System Failure: Clinical presentation
   concerning for heart failure with multiorgan system dysfunction.
   However also mixed picture given nl SvO2 and marginal CVP with IVF
   resuscitation. Likely mixed cardiogenic and septic. Pt has no evidence
   of fever/tachycardia/hypotension/hypoxia however he does have evidence
   of poor perfusion with cool extremities, acute renal failure, mental
   status changes, and transaminitis with  positive [**First Name3 (LF) 573**] cx. Underlying
   etiology most likely significant endocarditis.  Pt seen by CT [**Doctor First Name 213**] and
   not surgical candidate.
   - PICC Line DC'd in ED - cultures pending
   - [**Doctor First Name **] Cx pending, 1 posiotive for GPC, likely will be VRE given
   extensive h/o VRE endocarditis
   - Urine Cx pending
   - Monitor SVo2 goal >70
   - Trend lactate, overall trending down
   - Continue broad spectrum antibiotics with daptomycin for VRE
   endocarditis
   - If MOS failure found to be due to hypoperfusion in the setting of
   heart failure stemming for overwhelming endocarditis, treatment options
   will be quite limited as pt is not surgical candidate and there is
   remote possibility of cure with antibiotics alone, this was discussed
   with family.
   - Pt seen by CT [**Doctor First Name 213**] and would bnot be surgical candidate. Little
   options left other than continuing medical management fro endocarditis
   .
   # Leukocytosis - WBC 19 on admission, alightly down today to 16.
   Concern for reactive due to shock vs infection
   - ID workup as above
   - HD monitoring as above
   .
   # Acute on Chronic Renal Failure - pt with Cr of 5.4  up from 3.5 at
   time of discharge, continuing to trend up. Minimal UOP in ED. Most
   likely ATN but unclear etiology of worsening. Concern for heart failure
   leading to poor perfusion vs UTI vs septic emboli for endocarditis .
   Retention less likely given minimal UOP after foley placement. Given
   poor UOP, volume overload may be indication for dialysis but dialysis
   would essentially be bridge to nowhere given poor prognosis of infxn
   and inability to adequately manage endocarditis with medical
   management. Pt now with mental status changes as well.
   - UA and culture. UA now growing GNR so on Zosyn
   - Will discuss goals of care with family. Would like to avoid invasive
   measures such as HD or CVVH
   - Will resume home diuretic regimen to attempt to improve UOP, decrease
   volume overload
   - Maintain MAP to optimize perfusion
   - Aim to keep 1 liter negative (actually even given 1L insensible
   losses)
   .
   # Elevated LFTS - concern for congestive hepatopathy vs primary biliary
   process however no tenderness on abd exam and RUQ US negative in ED
   - Trend LFTs, fractionate bili
   - f/u final read RUQ US
   - treat suspected hypoperfusion as above
   .
   # UTI: GNR in urine as above. Will treat empirically with zosyn for
   now, F/U cx data
   .
   # AG Metabolic Acidosis
 AG and lactate elevatedlikley [**12-30**] infection,
   hypoperfusion. [**Month (only) 51**] also be component of linezolid so linezolid
   discontinued, on Dapto. . Also may be related to ARF and uremia
   - trend lactate
   - monitor AG
   - treat as above
   .
   # Cardiomyopathy - Pt severe AR and severe MR now with evidence of poor
   perfusion. Maintaining MAP, adequate SVO2 off dobutamine.
   - Continue simvastatin, aspirin, amiodarone
   - Hold metoprolol for now
   .
   # Elevated CRP - 102 up from 51 on [**8-30**]. Pt with hx of vertebral
   discitis, followed by ID and on abx as above. Elevation now in setting
   of multiorgan system failure
   - continue ID w/u as above
   - consider repeat abdominal/spine imaging but unlikely to change
   managem,ent since on Abx indefinitely at this pt
   .
   # OSA - family reports pt previously intolerant of CPAP facemask,
   - trial nasal CPAP
   .
   # FEN - NPO with sips for now given poor mental status
   - replete lytes PRN, monitor K
   .
   # Access - RIJ
   .
   # Prophy
 had supratherapuetic INR on coumadin. Will give PO vit K x 1
   to reverse coagulopathy and follow, bisacodyl
   .
   # Code - DNR/DNI, confirmed with wife, will have family meeting today
   to discuss goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2131-9-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2131-09-08 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-9-7**] 05:04 PM
   evaluated by MD with no significant change
   Lactate trending downwards: 6.0 -> 5.3 -> 4.1
   Given findings on ECHO (RV overload), CXR suggesting edema, and high
   home dose of lasix, gave 40mg lasix IV at 11pm. No increase in urine
   output, but HR decreased, BP increased, and sVO2 increased.
   Gave 80mg Lasix at 4am.
   ID Recs: Continue broad coveragew/ Dapto and Zosyn (changed Dapto to
   900mg IV q48h). Need to request lab run sensitivities to Dapt,
   Linazolid, Tetracycline, Synecid (sp?), Rifampin.
   Seen by paliative care, note in chart.
   UOP poor all day [**4-12**]
   No Cards recs seen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-7**] 10:03 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2131-9-8**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-8**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 75 (62 - 104) bpm
   BP: 118/44(62) {90/28(29) - 148/90(134)} mmHg
   RR: 37 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 13 (5 - 19)mmHg
   CO/CI (Fick): (8.4 L/min) / (3.9 L/min/m2)
   SvO2: 72%
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                    983 mL
                                                                    122 mL
   PO:
   TF:
   IVF:
                                                                    983 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    133 mL
                                                                     20 mL
   Urine:
                                                                    133 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    850 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   59 mg/dL
   5.4 mg/dL
   23 mEq/L
   5.6 mEq/L
   112 mg/dL
   97 mEq/L
   139 mEq/L
   26.3 %
   16.9 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
                            [**2131-9-7**]  02:41 PM
                            [**2131-9-8**]  03:25 AM
   WBC
   17.9
   16.8
   17.8
   16.9
   Hct
   28.1
   26.2
   27.7
   26.3
   Plt
   165
   156
   161
   150
   Cr
   4.5
   4.7
   4.7
   4.9
   5.4
   TropT
   0.15
   Glucose
   53
   59
   63
   75
   59
   Other labs: PT / PTT / INR:32.7/34.2/3.4, CK / CKMB /
   Troponin-T:151/6/0.15, ALT / AST:665/834, Alk Phos / T Bili:191/3.5,
   Differential-Neuts:90.6 %, Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:5.0 mmol/L, Albumin:3.0 g/dL, LDH:1116 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2131-9-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2131-09-08 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-9-7**] 05:04 PM
   evaluated by MD with no significant change
   Lactate trending downwards: 6.0 -> 5.3 -> 4.1
   Given findings on ECHO (RV overload), CXR suggesting edema, and high
   home dose of lasix, gave 40mg lasix IV at 11pm. No increase in urine
   output, but HR decreased, BP increased, and sVO2 increased.
   Gave 80mg Lasix at 4am.
   ID Recs: Continue broad coveragew/ Dapto and Zosyn (changed Dapto to
   900mg IV q48h). Need to request lab run sensitivities to Dapt,
   Linazolid, Tetracycline, Synecid (sp?), Rifampin.
   Seen by paliative care, note in chart.
   UOP poor all day [**4-12**]
   No Cards recs seen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-7**] 10:03 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2131-9-8**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-8**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 75 (62 - 104) bpm
   BP: 118/44(62) {90/28(29) - 148/90(134)} mmHg
   RR: 37 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 13 (5 - 19)mmHg
   CO/CI (Fick): (8.4 L/min) / (3.9 L/min/m2)
   SvO2: 72%
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                    983 mL
                                                                    122 mL
   PO:
   TF:
   IVF:
                                                                    983 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    133 mL
                                                                     20 mL
   Urine:
                                                                    133 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    850 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Ill-appearing
   Eyes / Conjunctiva: PERRL, 2mm equal
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Muscle wasting
   Skin:  Cool, Inferior sternal wound with good granulation tissue, no
   purulence
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Not oriented to person, place and time,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   59 mg/dL
   5.4 mg/dL
   23 mEq/L
   5.6 mEq/L
   112 mg/dL
   97 mEq/L
   139 mEq/L
   26.3 %
   16.9 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
                            [**2131-9-7**]  02:41 PM
                            [**2131-9-8**]  03:25 AM
   WBC
   17.9
   16.8
   17.8
   16.9
   Hct
   28.1
   26.2
   27.7
   26.3
   Plt
   165
   156
   161
   150
   Cr
   4.5
   4.7
   4.7
   4.9
   5.4
   TropT
   0.15
   Glucose
   53
   59
   63
   75
   59
   Other labs: PT / PTT / INR:32.7/34.2/3.4, CK / CKMB /
   Troponin-T:151/6/0.15, ALT / AST:665/834, Alk Phos / T Bili:191/3.5,
   Differential-Neuts:90.6 %, Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:5.0 mmol/L, Albumin:3.0 g/dL, LDH:1116 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   A/P: The Pt is a 73y/o M with extensive VRE endocarditis presenting
   with altered mental status and multiorgan system failure.
   .
   # Altered Mental Status: most likely multifactorial including evidence
   of poor perfusion, possible underlying infection, no meningeal signs on
   exam
   - CT Head negative
   - Hold on LP for now given no meningeal signs, low likelihood and
   elevated INR
   - ID workup including pan-cultures
   - Treat poor perfusion with supportive management, maintain MAP>60,
   SVO2>70, continue dobutamine
   .
   # Multiorgan System Failure: Clinical presentation concerning for heart
   failure with multiorgan system dysfunction. However also mixed picture
   given nl SvO2 and marginal CVP with IVF resuscitation. Likely mixed
   cardiogenic and septic. Pt has no evidence of
   fever/tachycardia/hypotension/hypoxia however he does have evidence of
   poor perfusion with cool extremities, acute renal failure, mental
   status changes, and transaminitis. Underlying etiology most likely
   significant endocarditis. Systemic infection still possible. UA with
   25-50WBC, also pt with PICC line in place making line infection
   possible.
   - PICC Line DC'd in ED - cultures pending
   - Blood Cx pending
   - Urine Cx pending
   - Repeat CXR in am
   - Monitor SVo2 goal >70
   - Trend lactate
   - Continue dobutamine - will trial over 12 hours given improvement in
   lactate, however no improvement in UOP with pressor
   - Continue broad spectrum antibiotics with daptomycin for VRE
   endocarditis and zosyn for broad spectrum GN coverage while awaiting
   culture data
   - If MOS failure found to be due to hypoperfusion in the setting of
   heart failure stemming for overwhelming endocarditis, treatment options
   will be quite limited as pt is not surgical candidate and there is
   remote possibility of cure with antibiotics alone, this was discussed
   with family.
   .
   # Leukocytosis - WBC 19 on admission. Concern for reactive due to shock
   vs infection
   - ID workup as above
   - HD monitoring as above
   .
   # Acute on Chronic Renal Failure - pt with Cr of 4.5 up from 3.5 at
   time of discharge. Minimal UOP in ED. Concern for heart failure leading
   to poor perfusion vs UTI and urinary retention. Retention less likey
   given minimal UOP after foley placement
   - Urine lytes
   - UA and culture
   - Maintain MAP to optimize perfusion
   .
   # Elevated LFTS - concern for congestive hepatopathy vs primary biliary
   process however no tenderness on abd exam and RUQ US negative in ED
   - Trend LFTs, fractionate bili
   - f/u final read RUQ US
   - treat suspected hypoperfusion as above
   .
   # AG Metabolic Acidosis - AG 18 with elevated lactate to 8, treat as
   above. Also may be related to ARF and uremia
   - trend lactate
   - monitor AG
   - treat as above
   .
   # Cardiomyopathy - Pt with EF of 40-45%, Severe AR and Severe MR now
   with evidence of poor perfusion
   - Continue dobutamine
   - Continue simvastatin, aspirin, amiodarone
   - Hold metoprolol for now
   .
   # Elevated CRP - 102 up from 51 on [**8-30**]. Pt with hx of vertebral
   discitis, followed by ID and on abx as above. Elevation now in setting
   of multiorgan system failure
   - continue ID w/u as above
   - consider repeat abdominal/spine imaging
   .
   # OSA - family reports pt previously intolerant of CPAP facemask,
   - will trial nasal CPAP
   .
   # FEN - NPO for now given poor mental status
   - replete lytes PRN, monitor K
   .
   # Access - RIJ
   .
   # Prophy - on coumadin - supratherapuetic
   .
   # Code - DNR/DNI, confirmed with wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2131-9-6**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2131-09-09 05:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Made CMO
   Pulled RIJ so no access
   Given Kayexalate PR for Increased K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-8**] 02:20 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2131-9-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-9**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 79 (75 - 82) bpm
   BP: 128/33(57) {111/33(57) - 141/49(66)} mmHg
   RR: 21 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (8 - 16)mmHg
   CO/CI (Fick): (9 L/min) / (4.2 L/min/m2)
   SvO2: 74%
   Mixed Venous O2% Sat: 55 - 55
   Total In:
                                                                    490 mL
   PO:
   TF:
   IVF:
                                                                    465 mL
   Blood products:
   Total out:
                                                                    135 mL
                                                                     80 mL
   Urine:
                                                                    135 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    355 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   103
   5.7 mg/dL
   23 mEq/L
   5.3 mEq/L
   116 mg/dL
   96 mEq/L
   139 mEq/L
   27
   16.9 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
                            [**2131-9-7**]  02:41 PM
                            [**2131-9-8**]  03:25 AM
                            [**2131-9-8**]  02:09 PM
                            [**2131-9-8**]  03:02 PM
                            [**2131-9-9**]  12:00 AM
   WBC
   17.9
   16.8
   17.8
   16.9
   Hct
   28.1
   26.2
   27.7
   26.3
   27
   Plt
   165
   156
   161
   150
   Cr
   4.5
   4.7
   4.7
   4.9
   5.4
   5.7
   TropT
   0.15
   Glucose
   53
   59
   63
   75
   59
   85
   103
   Other labs: PT / PTT / INR:32.7/34.2/3.4, CK / CKMB /
   Troponin-T:151/6/0.15, ALT / AST:665/834, Alk Phos / T Bili:191/3.5,
   Differential-Neuts:90.6 %, Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:3.7 mmol/L, Albumin:3.0 g/dL, LDH:1116 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2131-09-09 05:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Made CMO
   Pulled RIJ so no access
   Given Kayexalate PR for Increased K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-8**] 02:20 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2131-9-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-9**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 79 (75 - 82) bpm
   BP: 128/33(57) {111/33(57) - 141/49(66)} mmHg
   RR: 21 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (8 - 16)mmHg
   CO/CI (Fick): (9 L/min) / (4.2 L/min/m2)
   SvO2: 74%
   Mixed Venous O2% Sat: 55 - 55
   Total In:
                                                                    490 mL
   PO:
   TF:
   IVF:
                                                                    465 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                    135 mL
                                                                     80 mL
   Urine:
                                                                    135 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    355 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: chronically Ill-appearing
   Eyes / Conjunctiva: PERRL, 2mm equal
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL. RIJ with some ecchymoses, nontender
   Cardiovascular: Systolic and diastolic murmurs with (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear Anteriorly: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: [**11-29**]+ poitting edema BL
   Musculoskeletal: Muscle wasting
   Skin:  Cool, Inferior sternal wound with good granulation tissue, no
   purulence
   Neurologic: No(t) Attentive, Follows simple commands, MAE, oriented to
   hospital only.
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   103
   5.7 mg/dL
   23 mEq/L
   5.3 mEq/L
   116 mg/dL
   96 mEq/L
   139 mEq/L
   27
   16.9 K/uL
        [image002.jpg]
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
                            [**2131-9-7**]  02:41 PM
                            [**2131-9-8**]  03:25 AM
                            [**2131-9-8**]  02:09 PM
                            [**2131-9-8**]  03:02 PM
                            [**2131-9-9**]  12:00 AM
   WBC
   17.9
   16.8
   17.8
   16.9
   Hct
   28.1
   26.2
   27.7
   26.3
   27
   Plt
   165
   156
   161
   150
   Cr
   4.5
   4.7
   4.7
   4.9
   5.4
   5.7
   TropT
   0.15
   Glucose
   53
   59
   63
   75
   59
   85
   103
   Other labs: PT / PTT / INR:32.7/34.2/3.4, CK / CKMB /
   Troponin-T:151/6/0.15, ALT / AST:665/834, Alk Phos / T Bili:191/3.5,
   Differential-Neuts:90.6 %, Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:3.7 mmol/L, Albumin:3.0 g/dL, LDH:1116 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   A/P: The Pt is a 73y/o M with extensive VRE endocarditis presenting
   with altered mental status and multiorgan system failure.
   .
   # Altered Mental Status: most likely multifactorial including evidence
   of poor perfusion, underlying chronic infection, no meningeal signs on
   exam. Also ? [**12-30**] linezolid toxicity
   - CT Head negative
   - Hold on LP given no meningeal signs, low likelihood and elevated INR
   - ID workup including pan-cultures, growing GPC in [**Last Name (LF) 573**], [**First Name3 (LF) **] need to
   f/u speciation
   - Treat poor perfusion with supportive management, maintain MAP>60,
   SVO2>70,
   .
   # VRE endocarditis/Multiorgan System Failure: Clinical presentation
   concerning for heart failure with multiorgan system dysfunction.
   However also mixed picture given nl SvO2 and marginal CVP with IVF
   resuscitation. Likely mixed cardiogenic and septic. Pt has no evidence
   of fever/tachycardia/hypotension/hypoxia however he does have evidence
   of poor perfusion with cool extremities, acute renal failure, mental
   status changes, and transaminitis with  positive [**First Name3 (LF) 573**] cx. Underlying
   etiology most likely significant endocarditis.  Pt seen by CT [**Doctor First Name 213**] and
   not surgical candidate.
   - PICC Line DC'd in ED - cultures pending
   - [**Doctor First Name **] Cx pending, 1 posiotive for GPC, likely will be VRE given
   extensive h/o VRE endocarditis
   - Urine Cx pending
   - Monitor SVo2 goal >70
   - Trend lactate, overall trending down
   - Continue broad spectrum antibiotics with daptomycin for VRE
   endocarditis
   - If MOS failure found to be due to hypoperfusion in the setting of
   heart failure stemming for overwhelming endocarditis, treatment options
   will be quite limited as pt is not surgical candidate and there is
   remote possibility of cure with antibiotics alone, this was discussed
   with family.
   - Pt seen by CT [**Doctor First Name 213**] and would bnot be surgical candidate. Little
   options left other than continuing medical management fro endocarditis
   .
   # Leukocytosis - WBC 19 on admission, alightly down today to 16.
   Concern for reactive due to shock vs infection
   - ID workup as above
   - HD monitoring as above
   .
   # Acute on Chronic Renal Failure - pt with Cr of 5.4  up from 3.5 at
   time of discharge, continuing to trend up. Minimal UOP in ED. Most
   likely ATN but unclear etiology of worsening. Concern for heart failure
   leading to poor perfusion vs UTI vs septic emboli for endocarditis .
   Retention less likely given minimal UOP after foley placement. Given
   poor UOP, volume overload may be indication for dialysis but dialysis
   would essentially be bridge to nowhere given poor prognosis of infxn
   and inability to adequately manage endocarditis with medical
   management. Pt now with mental status changes as well.
   - UA and culture. UA now growing GNR so on Zosyn
   - Will discuss goals of care with family. Would like to avoid invasive
   measures such as HD or CVVH
   - Will resume home diuretic regimen to attempt to improve UOP, decrease
   volume overload
   - Maintain MAP to optimize perfusion
   - Aim to keep 1 liter negative (actually even given 1L insensible
   losses)
   .
   # Elevated LFTS - concern for congestive hepatopathy vs primary biliary
   process however no tenderness on abd exam and RUQ US negative in ED
   - Trend LFTs, fractionate bili
   - f/u final read RUQ US
   - treat suspected hypoperfusion as above
   .
   # UTI: GNR in urine as above. Will treat empirically with zosyn for
   now, F/U cx data
   .
   # AG Metabolic Acidosis
 AG and lactate elevatedlikley [**12-30**] infection,
   hypoperfusion. [**Month (only) 51**] also be component of linezolid so linezolid
   discontinued, on Dapto. . Also may be related to ARF and uremia
   - trend lactate
   - monitor AG
   - treat as above
   .
   # Cardiomyopathy - Pt severe AR and severe MR now with evidence of poor
   perfusion. Maintaining MAP, adequate SVO2 off dobutamine.
   - Continue simvastatin, aspirin, amiodarone
   - Hold metoprolol for now
   .
   # Elevated CRP - 102 up from 51 on [**8-30**]. Pt with hx of vertebral
   discitis, followed by ID and on abx as above. Elevation now in setting
   of multiorgan system failure
   - continue ID w/u as above
   - consider repeat abdominal/spine imaging but unlikely to change
   managem,ent since on Abx indefinitely at this pt
   .
   # OSA - family reports pt previously intolerant of CPAP facemask,
   - trial nasal CPAP
   .
   # FEN - NPO with sips for now given poor mental status
   - replete lytes PRN, monitor K
   .
   # Access - RIJ
   .
   # Prophy
 had supratherapuetic INR on coumadin. Will give PO vit K x 1
   to reverse coagulopathy and follow, bisacodyl
   .
   # Code - DNR/DNI, confirmed with wife, will have family meeting today
   to discuss goals of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2131-09-09 05:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Patient made CMO [**9-8**]. He was continued on ABx but pulled RIJ so no
   access and no longer receiving. Abx unlikely to change management.
   Currently denies any complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-8**] 02:20 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2131-9-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-9**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 79 (75 - 82) bpm
   BP: 128/33(57) {111/33(57) - 141/49(66)} mmHg
   RR: 21 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (8 - 16)mmHg
   CO/CI (Fick): (9 L/min) / (4.2 L/min/m2)
   SvO2: 74%
   Mixed Venous O2% Sat: 55 - 55
   Total In:
                                                                    490 mL
   PO:
   TF:
   IVF:
                                                                    465 mL
   Blood products:
   Total out:
                                                                    135 mL
                                                                     80 mL
   Urine:
                                                                    135 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    355 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: chronically Ill-appearing
   Eyes / Conjunctiva: PERRL, 2mm equal
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL. RIJ removed with dsg C/D/I.
   Cardiovascular: Systolic and diastolic murmurs with (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear Anteriorly: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: 1+ pitting edema BL
   Musculoskeletal: Muscle wasting
   Skin:  Cool, Inferior sternal wound with good granulation tissue, no
   purulence
   Neurologic: No(t) Attentive, Follows simple commands, MAE, not
   oriented.
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   103
   5.7 mg/dL
   23 mEq/L
   5.3 mEq/L
   116 mg/dL
   96 mEq/L
   139 mEq/L
   27
   16.9 K/uL
        [image002.jpg]    No NEW LABS
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
                            [**2131-9-7**]  02:41 PM
                            [**2131-9-8**]  03:25 AM
                            [**2131-9-8**]  02:09 PM
                            [**2131-9-8**]  03:02 PM
                            [**2131-9-9**]  12:00 AM
   WBC
   17.9
   16.8
   17.8
   16.9
   Hct
   28.1
   26.2
   27.7
   26.3
   27
   Plt
   165
   156
   161
   150
   Cr
   4.5
   4.7
   4.7
   4.9
   5.4
   5.7
   TropT
   0.15
   Glucose
   53
   59
   63
   75
   59
   85
   103
   Other labs: PT / PTT / INR:32.7/34.2/3.4, CK / CKMB /
   Troponin-T:151/6/0.15, ALT / AST:665/834, Alk Phos / T Bili:191/3.5,
   Differential-Neuts:90.6 %, Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:3.7 mmol/L, Albumin:3.0 g/dL, LDH:1116 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   A/P: The Pt is a 73y/o M with extensive VRE endocarditis presenting
   with altered mental status and multiorgan system failure, not surgical
   candidate, now CMO. Per palliative care recs, pt ordered for Tylenol,
   Trazodone, Scopolamine, Ativan, Haldol, Dilaudid, Hyocynamine. Also had
   been on Dapto/Zosyn for VRE endocarditis and PsA UTI. No longer
   receiving any IV meds including ABx d/t pulled line, no access. Since
   at risk for pulling line now and currently pain free will not place PIV
   at this time. Also, family currently visiting. Will consider placing
   PIV if needs pain control, currently only on Tylenol. Will d/w family
   IV access and that pt no longer on ABx. Abx unlikely to acute change
   prognosis.
   FEN: Regular diet
   DIspo: Called out, off all telemetry, monitoring per family request
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2131-09-09 05:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Patient made CMO [**9-8**]. He was continued on ABx but pulled RIJ so no
   access and no longer receiving. Abx unlikely to change management.
   Currently denies any complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-9-7**] 03:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2131-9-8**] 02:20 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2131-9-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-9**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 79 (75 - 82) bpm
   BP: 128/33(57) {111/33(57) - 141/49(66)} mmHg
   RR: 21 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (8 - 16)mmHg
   CO/CI (Fick): (9 L/min) / (4.2 L/min/m2)
   SvO2: 74%
   Mixed Venous O2% Sat: 55 - 55
   Total In:
                                                                    490 mL
   PO:
   TF:
   IVF:
                                                                    465 mL
   Blood products:
   Total out:
                                                                    135 mL
                                                                     80 mL
   Urine:
                                                                    135 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    355 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: chronically Ill-appearing
   Eyes / Conjunctiva: PERRL, 2mm equal
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL. RIJ removed with dsg C/D/I.
   Cardiovascular: Systolic and diastolic murmurs with (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear Anteriorly: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: 1+ pitting edema BL
   Musculoskeletal: Muscle wasting
   Skin:  Cool, Inferior sternal wound with good granulation tissue, no
   purulence
   Neurologic: No(t) Attentive, Follows simple commands, MAE, not
   oriented.
   Labs / Radiology
   150 K/uL
   8.5 g/dL
   103
   5.7 mg/dL
   23 mEq/L
   5.3 mEq/L
   116 mg/dL
   96 mEq/L
   139 mEq/L
   27
   16.9 K/uL
        [image002.jpg]    No NEW LABS
                             [**2131-9-6**]  10:30 PM
                            [**2131-9-7**]  12:55 AM
                            [**2131-9-7**]  07:18 AM
                            [**2131-9-7**]  02:41 PM
                            [**2131-9-8**]  03:25 AM
                            [**2131-9-8**]  02:09 PM
                            [**2131-9-8**]  03:02 PM
                            [**2131-9-9**]  12:00 AM
   WBC
   17.9
   16.8
   17.8
   16.9
   Hct
   28.1
   26.2
   27.7
   26.3
   27
   Plt
   165
   156
   161
   150
   Cr
   4.5
   4.7
   4.7
   4.9
   5.4
   5.7
   TropT
   0.15
   Glucose
   53
   59
   63
   75
   59
   85
   103
   Other labs: PT / PTT / INR:32.7/34.2/3.4, CK / CKMB /
   Troponin-T:151/6/0.15, ALT / AST:665/834, Alk Phos / T Bili:191/3.5,
   Differential-Neuts:90.6 %, Lymph:5.5 %, Mono:3.8 %, Eos:0.1 %, Lactic
   Acid:3.7 mmol/L, Albumin:3.0 g/dL, LDH:1116 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   A/P: The Pt is a 73y/o M with extensive VRE endocarditis presenting
   with altered mental status and multiorgan system failure, not surgical
   candidate, now CMO. Per palliative care recs, pt ordered for Tylenol,
   Trazodone, Scopolamine, Ativan, Haldol, Dilaudid, Hyocynamine. Also had
   been on Dapto/Zosyn for VRE endocarditis and PsA UTI. No longer
   receiving any IV meds including ABx d/t pulled line, no access. Since
   at risk for pulling line now and currently pain free will not place PIV
   at this time. Also, family currently visiting. Will consider placing
   PIV if needs pain control, currently only on Tylenol. Will d/w family
   IV access and that pt no longer on ABx. Abx unlikely to acute change
   prognosis.
   FEN: Regular diet
   DIspo: Called out, off all telemetry, monitoring per family request
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   On this day I was present for the key portions of the services
   provided, and I agree with the findings and plan of care of Dr [**Last Name (STitle) 2391**]
   note above.  The patient is comfortable, and family is visting.  He
   will move to the floor today, without further antibiotics.  We will
   consider replacing the IV he pulled out with a heparin lock, should he
   need IV meds for comfort on the floor.  The family seems to be handling
   this transition to CMO very well.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2131-9-9**] 13:28 ------